US08053581B2
Preparation of 2-[[5-benzyl-4-(4-methoxy-phenyl)-thiazol-2-yl]-(2-hydroxy-ethyl)-amino]-ethanol
To 25 ml eggplant-shaped bottle were added 1.30 g (4.12 mmol) 5-benzyl-2-chloro-4-(4-methoxy-phenyl)-thiazole prepared in the step 1 of Example 70, 0.35 g (8.24 mmol) LiOH.H2O, 20 mg KI, 0.87 g (8.24 mmol) piperazine, 5 ml DMF and 0.5 ml water. The mixture was stirred until homogeneous, heated to 100° C., stirred for 12 hours, added 20 ml water, and extracted with ethyl acetate 3×10 ml. The organic phases were combined, washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to obtain a crude product as a off-white solid, which was purified under a reduced pressure by silica gel column chromatography eluted with dichloromethane and methanol at a ratio 10:1 (V:V) to give an oily and thick product, which was recrystallized with petroleum ether and ethyl acetate to obtain a 0.98 g white solid in a yield of 62.0%, mp: 119-120 └. 1H-NMR (CDCl3, 400 MHz) δ: 3.62 (4H, t, J=5.2 Hz, 2×CH2), 3.81 (3H, s, OCH3), 3.88 (4H, t, J=5.2 Hz, 2×CH2), 4.09 (2H, s, CH2), 6.90 (2H, d, J=8.80 Hz, ArH), 7.18˜7.35 (5H, m, ArH), 7.48 (2H, d, J=8.80 Hz, ArH); EI-MS m/e (%): 384.1 (M+, 80), 353.1 (64), 309.0 (100), 295.1 (15); HREI-MS Calcd. for C21H24N2O3S: 384.1508. found: 384.1504. Anal. Calcd. for C21H24N2O3S: C, 65.60; H, 6.29; N, 7.29. found: C, 65.42; H, 6.56; N, 7.34.

reactant | 5-benzyl-2-chloro-4-(4-methoxy-phenyl)-thiazole | 4.12 mmol, 1.30 g | C(C1=CC=CC=C1)C1=C(N=C(S1)Cl)C1=CC=C(C=C1)OC | C17H14ClNOS
reactant | LiOH.H2O | 8.24 mmol, 0.35 g | O[Li].O
reactant | piperazine | 8.24 mmol, 0.87 g | N1CCNCC1 | C4H10N2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 2-[[5-benzyl-4-(4-methoxy-phenyl)-thiazol-2-yl]-(2-hydroxy-ethyl)-amino]-ethanol | 0.98 g, yield of 62.0% | C(C1=CC=CC=C1)C1=C(N=C(S1)N(CCO)CCO)C1=CC=C(C=C1)OC | C21H24N2O3S
